US05221750
Synthesis of Compound (6), 5-t-butyl-2-(2-nitro-4-trifluoromethylphenyl)-4-isoxazolin-3-one:
After mixing 15.0 g of 4-chloro-3-nitrobenzotrifluoride, 11.3 g of 5-t-butyl-3-hydroxyisoxazole, 11.0 g of potassium carbonate, and 80 ml of dimethyl sulfoxide, the mixture was reacted for 4 hours at 80° C. After cooling, the reaction mixture obtained was poured into water to deposit crystals which were then recovered by filtration and recrystallized from a mixture of water and methanol to provide 10.0 g of the desired compound with a yield of 45.5%. The melting point thereof was 116° to 117° C.

reactant | 4-chloro-3-nitrobenzotrifluoride | 15.0 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | 5-t-butyl-3-hydroxyisoxazole | 11.3 g | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
reactant | potassium carbonate | 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-t-butyl-2-(2-nitro-4-trifluoromethylphenyl)-4-isoxazolin-3-one | 10.0 g, yield of 45.5% | C(C)(C)(C)C1=CC(N(O1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C14H13F3N2O4
